US04920116
N-[2-(Diethylamino)ethyl]-N-(2,6-dimethylphenyl)-4-[(methylsulfonyl)amino]benzamide hydrochloride
To 15 mL of tetrahydrofuran under nitrogen atmosphere add 0.74 g (4.7 mmol) of 4-[(methylsulfonyl)amino]benzoyl chloride then add 0.89 g (0.40 mmol) of N,N-diethyl-N'-(2,6-dimethylphenyl)-1,2-ethanediamine. When the addition is complete allow the reaction to stir at reflux. Monitor the progress of the reaction by thin-layer chromatography (concentrated aqueous ammonium hydroxide: acetonitrile, 1:9). Upon completion of the reaction, cool the mixture to room temperature. Filter the resulting solid and wash the solid with tetrahydrofuran. Recrystallize from acetonitrile to provide the title compound.

reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 4.7 mmol, 0.74 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | N,N-diethyl-N'-(2,6-dimethylphenyl)-1,2-ethanediamine | 0.40 mmol, 0.89 g | C(C)N(CCNC1=C(C=CC=C1C)C)CC | C14H24N2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-(Diethylamino)ethyl]-N-(2,6-dimethylphenyl)-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C(C)N(CCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C1=C(C=CC=C1C)C)CC | InChI=1S/C22H31N3O3S.ClH/c1-6-24(7-2)15-16-25(21-17(3)9-8-10-18(21)4)22(26)19-11-13-20(14-12-19)23-29(5,27)28;/h8-14,23H,6-7,15-16H2,1-5H3;1H
